US05371097
A suspension of 4-(2-aminomethylthiazol-4-yl)-2-(diaminomethyleneamino)thiazole (1.0 g), acetoxyacetyl chloride (0.45 g) and triethylamine (0.93 g) in methylenechloride (30 ml) was stirred with cooling on an ice-water bath for 8 hours. The solvent was removed under reduced pressure. The residue was suspended in water (100 ml). The mixture was neutralized with a saturated aqueous sodium bicarbonate solution and then was extracted with a mixture of ethyl acetate (200 ml) and tetrahydrofuran (60 ml). The extract was dried with magnesium sulfate and then was evaporated. The residue was chromatographed on a silica gel column eluting with chloroform:methanol =10:1. Recrystallization from a mixture of methanol and diisopropyl ether afforded 2-(diaminomethyleneamino)-4-(2-acetoxyacetylaminomethylthiazol-4-yl)thiazole (0.2 g).

reactant | 4-(2-aminomethylthiazol-4-yl)-2-(diaminomethyleneamino)thiazole | 1.0 g | NCC=1SC=C(N1)C=1N=C(SC1)N=C(N)N | C8H10N6S2
reactant | acetoxyacetyl chloride | 0.45 g | C(C)(=O)OCC(=O)Cl | C4H5ClO3
reactant | triethylamine | 0.93 g | C(C)N(CC)CC | C6H15N
solvent | methylenechloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-(diaminomethyleneamino)-4-(2-acetoxyacetylaminomethylthiazol-4-yl)thiazole | 0.2 g | NC(N)=NC=1SC=C(N1)C=1N=C(SC1)CNC(COC(C)=O)=O | C12H14N6O3S2
